US04593118
A Parr flask was charged with 0.2 mol of ethyl 2-oximinoacetoacetate, 0.4 mol of acetic anhydride, 45 psi of hydrogen, and a mixture of 0.25 g of 5% palladium-on-carbon and 0.4 g of 10% palladium-on-carbon and shaken for about 22 hours. Work-up of the resultant reaction mixture provided a 92.3% yield of ethyl 2-acetamidoacetoacetate.

reactant | ethyl 2-oximinoacetoacetate | 0.2 mol | N(O)=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | acetic anhydride | 0.4 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.25 g | [Pd] | Pd
catalyst | palladium-on-carbon | 0.4 g | [Pd] | Pd
product | ethyl 2-acetamidoacetoacetate | 92.3% yield | C(C)(=O)NC(C(=O)OCC)C(=O)C | C8H13NO4
